US07713994B2
4-[(3,4-Dihydroxy-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
To a suspension of 4-Methoxymethylene-4H-isoquinoline-1,3-dione (40.6 mg, 0.2 mmol) in N,N-dimethylformamide (0.5 mL) is added 3,4-dihydroxyaniline (25 mg, 0.2 mmol). The reaction mixture is shaken at 115° C. for 1.5 hours. The reaction mixture is diluted to 2 mL with N,N-dimethylformamide and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield the title compound (15.6 mg).

reactant | 4-Methoxymethylene-4H-isoquinoline-1,3-dione | 0.2 mmol, 40.6 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 3,4-dihydroxyaniline | 0.2 mmol, 25 mg | OC=1C=C(N)C=CC1O | C6H7NO2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-[(3,4-Dihydroxy-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 15.6 mg | OC=1C=C(C=CC1O)NC=C1C(NC(C2=CC=CC=C12)=O)=O | C16H12N2O4
